US07427630B2
2-Methyl-4-(1H-pyrazol-1-yl)aniline
A solution of intermediate 82 (200 mg, 0.7 mmol), 1H-pyrazole (95 mg, 2 eq), CuI (133 mg, 1 eq), K2CO3 (290 mg, 2.1 eq) and (1R,2R)-diaminomethylcyclohexane (100 mg, 1 eq) in anh. NMP (1 mL), under N2, was heated at 150° C. for 6 hr. It was cooled down to r.t. and poured into water. EtOAc was added and the phases were separated. The aqueous layer was further extracted with EtOAc (2×10 mL). The combined organic extracts were dried over anh. Na2SO4, the solids were filtered and the solvent evaporated. The residue was purified by flash-chromatography (silica gel, cHex/EtOAc 8:2) to give the title compound as a white solid (85.6 mg, 70%).

reactant | 1H-pyrazole | 95 mg, 2 eq | N1N=CC=C1 | C3H4N2
reactant | K2CO3 | 290 mg, 2.1 eq | C(=O)([O-])[O-].[K+].[K+]
reactant | (1R,2R)-diaminomethylcyclohexane | 100 mg, 1 eq | CN[C@@H]1CCCC[C@H]1NC | C8H18N2
reactant | water | O | H2O
solvent | NMP | 1 mL | CN1CCCC1=O | C5H9NO
catalyst | CuI | 133 mg, 1 eq | [Cu]I
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 2-Methyl-4-(1H-pyrazol-1-yl)aniline | 85.6 mg, 70% | CC1=C(N)C=CC(=C1)N1N=CC=C1 | C10H11N3
